US06995144B2
3-tert-Butoxy-5-fluoropyrazine-2-carboxaldehyde
After dissolving 5.86 g of the crude 3-tert-butoxy-5-chloropyrazine-2-carboxaldehyde in 55 ml of acetonitrile, 4.77 g of potassium fluoride, 1.13 g of tetraphenylphosphonium bromide and 0.71 g of 18-crown-6 were added and the mixture was heated to reflux for 4 hours. Diethyl ether was added to the reaction mixture, the insoluble portion was filtered out, and the filtrate was distilled off under reduced pressure. Ethyl acetate was added to the residue, the insoluble portion was filtered out, and the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: toluene/ethyl acetate) to obtain the title compound (183 mg, 3% yield).

reactant | 3-tert-butoxy-5-chloropyrazine-2-carboxaldehyde | 5.86 g | C(C)(C)(C)OC=1C(=NC=C(N1)Cl)C=O | C9H11ClN2O2
reactant | potassium fluoride | 4.77 g | [F-].[K+]
reactant | 18-crown-6 | 0.71 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 55 ml | C(C)#N | C2H3N
catalyst | tetraphenylphosphonium bromide | 1.13 g | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-tert-Butoxy-5-fluoropyrazine-2-carboxaldehyde | 183 mg, 3% yield | C(C)(C)(C)OC=1C(=NC=C(N1)F)C=O | C9H11FN2O2
